US06465507B2
Benzotriazol-1-yloxytripyrrolidinophosphonium hexafluorophosphate (PyBOP, 3.5 g, 6.72 mmol) was added to a mixture of 5-carboxy-2-oxindole (1 g, 5.6 mmol), dimethylamine (5.6 mL of 2.0 M in THF, 11.2 mmol) and triethylamine (2.0 mL, 14 mmol) in dichloromethane. After stirring at room temperature for 3 hours, the reaction was diluted with more dichloromethane, washed with water, saturated sodium bicarbonate and brine, dried and concentrated. The residue was purified by column chromatography to give 480 mg (42%) of 2-oxo-2,3-dihydro-1H-indole-5-carboxylic acid dimethylamide.

reactant | Benzotriazol-1-yloxytripyrrolidinophosphonium hexafluorophosphate | 6.72 mmol, 3.5 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
reactant | 5-carboxy-2-oxindole | 5.6 mmol, 1 g | C(=O)(O)C=1C=C2CC(NC2=CC1)=O | C9H7NO3
reactant | dimethylamine | 11.2 mmol, 2.0 M, 5.6 mL | CNC | C2H7N
reactant | triethylamine | 14 mmol, 2.0 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-oxo-2,3-dihydro-1H-indole-5-carboxylic acid dimethylamide | 480 mg, 42% | CN(C(=O)C=1C=C2CC(NC2=CC1)=O)C | C11H12N2O2
